US08664379B2
To a cooled (0° C.) solution of 6-(3-fluorophenyl)-3,4-dihydroquinolin-2(1H)-one (48 mg, 0.20 mmol) in anhydrous tetrahydrofuran (2 mL) was added 95% sodium hydride (10 mg, 0.40 mmol). The reaction mixture was stirred for 5 minutes, then warmed to 40° C. for 15 minutes under an atmosphere of dry N2. Iodomethane (142 mg, 1.00 mmol) was added, and the resulting mixture was stirred at room temperature for 15 hours. Methanol (2 mL) was added, and the mixture stirred for 10 minutes. Solvent was removed from the reaction mixture under reduced pressure, ethyl acetate (30 mL) and 30% ammonium chloride (10 mL) were added, the organic phase was washed with water (10 mL), 30% ammonium chloride (15 mL) and brine (15 mL), and the organic layer was concentrated under reduced pressure to give 6-(3-fluorophenyl)-1-methyl-3,4-dihydroquinolin-2(1H)-one. MS mz 256.1 (M+H), anal HPLC 92% in purity. 1H NMR (400 MHz; CDCl3) δ 7.46 (dd, J=8.6 Hz, 2.3 Hz, 1H); 7.30-7.42 (m, 3H); 7.25 (m, 1H); 6.98-7.10 (m, 2H); 3.39 (s, 3H); 2.97 (t, J=7.4 Hz, 2H); 2.70 (t, J=7.4 Hz, 2H).

reactant | 6-(3-fluorophenyl)-3,4-dihydroquinolin-2(1H)-one | 0.20 mmol, 48 mg | FC=1C=C(C=CC1)C=1C=C2CCC(NC2=CC1)=O | C15H12FNO
reactant | sodium hydride | 0.40 mmol, 10 mg | [H-].[Na+]
reactant | Iodomethane | 1.00 mmol, 142 mg | IC | CH3I
reactant | Methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 6-(3-fluorophenyl)-1-methyl-3,4-dihydroquinolin-2(1H)-one | FC=1C=C(C=CC1)C=1C=C2CCC(N(C2=CC1)C)=O | C16H14FNO
